US09034899B2
A procedure similar to the one in Step A of Example 29 was used to couple (+)-4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline with 2-chloropyrazine. (+)-4-(3,4-Dichlorophenyl)-6-fluoro-2-methyl-7-(pyrazin-2-yl)-1,2,3,4-tetrahydroisoquinoline was obtained in 47% yield as a brown oil: ESI MS m/z 388 [M+H]+.

reactant | (+)-4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)F)B1OC(C(O1)(C)C)(C)C)C | C22H25BCl2FNO2
reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
product | (+)-4-(3,4-Dichlorophenyl)-6-fluoro-2-methyl-7-(pyrazin-2-yl)-1,2,3,4-tetrahydroisoquinoline | 47% yield | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)F)C1=NC=CN=C1)C | C20H16Cl2FN3
